US06303783B1
Preparation of Ethyl 2-{{2-chloro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-primidinyl]-4-fluorophenyl}imino}-5-isopropylidene-4-oxo-3-thiazolidineacetate
A mixture of ethyl 2-{{2-chloro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-4-fluorophenyl}imino}-4-oxo-3-thiazolidineacetate (2.0 g, 3.83 mmol), acetone (0.562 mL, 7.65 mmol), piperidine (0.20 mL, 2.02 mmol) and acetic acid (20 μL) in ethanol is refluxed for 90 minutes, treated with additional acetone (0.562 mL), refluxed for 3.5 hours, stirred at room temperature overnight, concentrated in vacuo, and chased with ethyl acetate to obtain a residue. Column chromatography of the residue using silica gel and an ethyl acetate/hexanes solution (1:3) gives the title product as a white solid (1.5 g, mp 67-80° C.).

reactant | ethyl 2-{{2-chloro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-4-fluorophenyl}imino}-4-oxo-3-thiazolidineacetate | 3.83 mmol, 2.0 g | ClC1=C(C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)N=C1SCC(N1CC(=O)OCC)=O | C19H15ClF4N4O5S
reactant | acetone | 7.65 mmol, 0.562 mL | CC(=O)C | C3H6O
reactant | piperidine | 2.02 mmol, 0.20 mL | N1CCCCC1 | C5H11N
reactant | acetic acid | 20 μL | C(C)(=O)O | C2H4O2
reactant | acetone | 0.562 mL | CC(=O)C | C3H6O
solvent | ethanol | C(C)O | C2H6O
product | Ethyl 2-{{2-chloro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-primidinyl]-4-fluorophenyl}imino}-5-isopropylidene-4-oxo-3-thiazolidineacetate | 1.5 g | ClC1=C(C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)N=C1SC(C(N1CC(=O)OCC)=O)=C(C)C | C22H19ClF4N4O5S
